US07196090B2
Methyl pentafluorobenzoate (41.4 g, 183 mmol) was treated with N-methylpyrrolidinone (36.0 g) and the solution stirred and cooled to 5° C. under a N2 atmosphere. Benzylamine (19.8 g, 185 mmol) was added dropwise over 27 min. at 5° C.–20° C. The resulting thick yellow slurry was cooled to 2° C. over 25 min. and N,N-diisopropyl ethylamine (27.0 g, 209 mmol) was added over 30 min. at 3° C.–10° C. The mixture was allowed to warm to 18° C. and stirred for 2 hrs. It was then heated to 60° C. and stirred another 2 hs at 58° C.–67° C. The resulting solution was cooled to room temperature and stirred overnight. The mixture was treated with toluene (200 mL) and methyl tert-butyl ether (120 mL) and extracted with water (150 mL) followed by 10% aqueous acetic acid (2×50 mL). The organic layer was concentrated to a solid, which was recrystallized from toluene (45 mL) and heptane (50 mL). After cooling to −20° C., the crystals were collected, washed with heptane (2×25 mL) and vacuum dried at 35° C. to give methyl 4-(benzylamino)-2,3,5,6-tetrafluorobenzoate (49.3 g, 157 mmol): mp 96–97° C.

reactant | Methyl pentafluorobenzoate | 183 mmol, 41.4 g | FC1=C(C(=C(C(=C1C(=O)OC)F)F)F)F | C8H3F5O2
reactant | N-methylpyrrolidinone | 36.0 g | CN1C(CCC1)=O | C5H9NO
reactant | Benzylamine | 185 mmol, 19.8 g | C(C1=CC=CC=C1)N | C7H9N
reactant | N,N-diisopropyl ethylamine | 209 mmol, 27.0 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methyl tert-butyl ether | 120 mL | C(C)(C)(C)OC | C5H12O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(benzylamino)-2,3,5,6-tetrafluorobenzoate | 157 mmol, 49.3 g | C(C1=CC=CC=C1)NC1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C15H11F4NO2
